// technology : GPDK 180nm
// device     : pmos1

simulator lang=spectre
global 0

parameters L=0.18 Vb=0.0 Vg=0.0 Vd=0.0 Vs=0.0 W=20 Vdd=1.8

include "pmos1.scs" section=stat

save  W L M temp                                        \
     M0:vds M0:vgs M0:vbs  M0:vth M0:vdsat M0:vearly    \
     M0:gm  M0:gds M0:gmbs M0:ron M0:rout               \
     M0:id  M0:fug M0:pwr  M0:betaeff      M0.me:region \
     M0:self_gain  M0:gmoverid                          \
     M0:cbb M0:csb M0:cdb M0:cgb                        \
     M0:css M0:csd M0:csg M0:cds                        \
     M0:cdd M0:cdg M0:cbs M0:cbd                        \
     M0:cbg M0:cgd M0:cgs M0:cgg                        \

M0 (D G S B) pmos1 m=1 w=W l=L 

VD (D S) vsource dc=Vd type=dc
VG (G S) vsource dc=Vg type=dc
VS (S 0) vsource dc=Vs type=dc
VB (B S) vsource dc=Vb type=dc

simulatorOptions options save=selected rawfmt=nutbin scale=1u

width sweep param=W start=1 stop=30 dec=2 {
    length sweep param=L start=0.18 stop=20 dec=5 {
        bulk sweep param=Vb start=Vs stop=1.0 step=0.2 {
            drain sweep param=Vd start=Vs stop=-Vdd step=-0.1 {
                dc dc param=Vg start=Vs stop=-Vdd step=0.1 
            }
        }
    }
}
